US05179125
2-Methyl-3-nitrobenzoic acid (5 g) is dissolved in ethanol (50 ml) and the mixture is subjected to catalytic reduction with 5% palladium carbon (0.25 g) at room temperature for 5 hours. The catalyst is removed by filtration, and the filtrate is concentrated to give 3-amino-2-methylbenzoic acid (4.4 g).

reactant | 2-Methyl-3-nitrobenzoic acid | 5 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.25 g | [C].[Pd]
product | 3-amino-2-methylbenzoic acid | 4.4 g | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
